US07348337B2
Preparation of 4-[1-Phenyl-1-(5-(1-methylazetidin-3-yl)-1,3,4-oxadiazol-2-yl)methylene]piperidine-1-carboxylic acid tert-butyl ester:
To a solution of 4-[1-phenyl-1-(5-(azetidin-3-yl)-1,3,4-oxadiazol-2-yl)methylene]piperidine-1-carboxylic acid tert-butyl ester (0.029 g, 0.074 mmol) in MeOH (5 mL) was added formaldehyde (0.322 mL, 57% solution in H2O) dropwise at rt. A solution of NaCNBH3 (0.026 g, 0.415 mmol) in MeOH (0.3 mL) was then added and the solution was stirred at rt for 15 min. The resulting mixture was poured into H2O and extracted with EtOAc (×3), and the combined organic layers were washed (H2O, brine), dried (Na2SO4) and concentrated. The residue was purified by preparative HPLC (NH4OAc) to afford the title compound (0.012 g, 17%) as a colorless solid:

reactant | 4-[1-phenyl-1-(5-(azetidin-3-yl)-1,3,4-oxadiazol-2-yl)methylene]piperidine-1-carboxylic acid tert-butyl ester | 0.074 mmol, 0.029 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=C(C=1OC(=NN1)C1CNC1)C1=CC=CC=C1 | C22H28N4O3
reactant | formaldehyde | 0.322 mL | C=O | CH2O
reactant | NaCNBH3 | 0.415 mmol, 0.026 g | [BH3-]C#N.[Na+]
reactant | H2O | O | H2O
solvent | MeOH | 5 mL | CO | CH4O
solvent | MeOH | 0.3 mL | CO | CH4O
product | 4-[1-Phenyl-1-(5-(1-methylazetidin-3-yl)-1,3,4-oxadiazol-2-yl)methylene]piperidine-1-carboxylic acid tert-butyl ester | 0.012 g, 17% | C(C)(C)(C)OC(=O)N1CCC(CC1)=C(C=1OC(=NN1)C1CN(C1)C)C1=CC=CC=C1 | C23H30N4O3
